US06818652B2
A solution of 7-(1-hydroxymethyl-hexyl)-4,4-dimethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester (1.27 g, 3.38 mmole) in 10 mL of dichloromethane was added to a suspension of 1.1 g of pyridinium chlorochromate in 15 mL of dichloromethane. The reaction mixture was stirred at room temperature for 6 hours, diluted with 50 mL of ether and filtered through a pad of Celite. The volatiles were removed in vacuo to give a brown oil. The product was purified by flash chromatography (SiO2, 5% ethyl acetate in hexanes) to yield 0.91 g of 7-(1-formyl-hexyl)-4,4-dimethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester as a yellow oil.

reactant | 7-(1-hydroxymethyl-hexyl)-4,4-dimethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester | 3.38 mmole, 1.27 g | C(C)(C)(C)OC(=O)N1CCC(C2=CC=C(C=C12)C(CCCCC)CO)(C)C | C23H37NO3
reactant | pyridinium chlorochromate | 1.1 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | ether | 50 mL | CCOCC | C4H10O
product | 7-(1-formyl-hexyl)-4,4-dimethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester | 0.91 g | C(C)(C)(C)OC(=O)N1CCC(C2=CC=C(C=C12)C(CCCCC)C=O)(C)C | C23H35NO3
